US04159375
A solution of 9.8 g. of 3-chloro-6-(p-fluorophenyl)-1,2,4-triazine in 125 ml. of pyridine is cooled to 0° C. and 15 ml. of hydrazine hydrate is added. The mixture is stirred at room temperature for one hour and then poured into icewater. The solid is recovered by filtration and washed with ethanol, giving 3-hydrazino-6-(p-fluorophenyl)-1,2,4-triazine as an orange solid.

reactant | 3-chloro-6-(p-fluorophenyl)-1,2,4-triazine | ClC=1N=NC(=CN1)C1=CC=C(C=C1)F | C9H5ClFN3
reactant | hydrazine hydrate | O.NN
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-hydrazino-6-(p-fluorophenyl)-1,2,4-triazine | N(N)C=1N=NC(=CN1)C1=CC=C(C=C1)F | C9H8FN5
